US07321050B2
Experiment 36. 5-[2-(2,3,4,5,6-Pentafluorophenyl)ethenyl]-2-i-propyl-1,3-benzenediol (44B).
This material was prepared from 1-(2,3,4,5,6-pentafluorophenyl)-2-(3,5-dimethoxy-4-i-propylphenyl)ethene and pyridine hydrochloride in 21% yield in the same way as described in example 34. 1HNMR (CDCl3, ppm): δ 1.40 (d, J=7.2 Hz, 6H), 3.53 (d, J=7.2 Hz, 6H), 4.91 (s, 2H), 6.55 (s, 2H), 6.86 (d, J=17 Hz, 1H), 7.28 (d, J=17 Hz, 1H).

reactant | 1-(2,3,4,5,6-pentafluorophenyl)-2-(3,5-dimethoxy-4-i-propylphenyl)ethene | FC1=C(C(=C(C(=C1F)F)F)F)C=CC1=CC(=C(C(=C1)OC)C(C)C)OC | C19H17F5O2
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
product | 5-[2-(2,3,4,5,6-Pentafluorophenyl)ethenyl]-2-i-propyl-1,3-benzenediol | 21% yield | FC1=C(C(=C(C(=C1F)F)F)F)C=CC=1C=C(C(=C(C1)O)C(C)C)O | C17H13F5O2
